US03966741
It is also known to use 4- or Γ-mercaptopyridine as the starting compound. For instance, in J. Chem. Soc. 1939 873-877, King and Ware described the preparation of 4-pyridylthioacetic acid by treating 4-mercapto-pyridine with ClCH2COOH in a weakly basic medium, while Takahashi et al, as described in Pharm. Bull. (Japan) 2 30-34 (1954), obtain methyl-4-pyridylthioacetate by heating 4-mercaptopyridine for one hour on a water-bath with ClCH2CO2Me. In Gazz. Chim. Ital. 84 584-594 (1954), Musante and Fabbrini mention the preparation of 4-pyridylthioacetic acid by causing 4-mercapto-pyridine to react with ClCH2CONEt2 and treating the resulting 4-(diethylcarbamoylmethylmercapto)pyridine with KOH. In Wiss. Z. Tech. Hochsch. Chem. Leuna-Merseburg 2 187-193 (1959-1960) the preparation of (2-methyl-4-pyridylthio)acetic acid from ClCH2CO2H and 4-mercapto-2-methylpyridine is mentioned, the latter product being obtained by converting 4-nitro-2-methylpyridine-N-oxide into 4-chloro-2-methyl-pyridine and causing this to react with KHS.

reactant | 4-pyridylthioacetic acid | N1=CC=C(C=C1)CC(=S)O | C7H7NOS
reactant | 4-mercapto-pyridine | SC1=CC=NC=C1 | C5H5NS
reactant | ClCH2COOH | ClCC(=O)O | C2H3ClO2
product | methyl-4-pyridylthioacetate | COC(CC1=CC=NC=C1)=S | C8H9NOS
